US07179823B1
Sodium hydride (60%, oily, 0.80 g) was added to a solution of [3-methyl-1-(2-pyridyl)-1H-pyrazol-4-yl]methanol (3.20 g) in N,N-dimethylformamide (50 ml) at 0° C., and the mixture was stirred at room temperature for one hour. 4-fluorobenzaldehyde (2 ml) was added to the reaction mixture, and the mixture was stirred overnight at 50° C. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and 4-[3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethoxy]benzaldehyde (4.26 g, yield: 86%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 84–85° C.

reactant | Sodium hydride | 0.80 g | [H-].[Na+]
reactant | [3-methyl-1-(2-pyridyl)-1H-pyrazol-4-yl]methanol | 3.20 g | CC1=NN(C=C1CO)C1=NC=CC=C1 | C10H11N3O
reactant | 4-fluorobenzaldehyde | 2 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-[3-methyl-1-(2-pyridyl)-1H-pyrazol-4-ylmethoxy]benzaldehyde | 4.26 g, yield: 86% | CC1=NN(C=C1COC1=CC=C(C=O)C=C1)C1=NC=CC=C1 | C17H15N3O2
